US08357711B2
tert-Butyl 6-[(6-methylpyridin-2-yl)methyl]-1,4-oxazepane-4-carboxylate
0.5M 9-Borobicyclo[3.3.1]nonane in THF (415 mL, 0.21 mol, 1.1 eq) was added under stirring in a stream of argon at room temperature to tert-butyl 6-[(cyclopropylmethoxy)methyl]-6-hydroxy-1,4-oxazepane-4-carboxylate (Preparation 80, 40 g, 0.19 mol, 1 eq). The reaction mixture was stirred at room temperature for 2 h. After this, the catalyst palladium (0) tetrakis(triphenylphosphine) (4 g, 0.003 mol, 0.02 eq) and 2-bromo-6-methylpyridine (36 g, 0.21 mol, 1.1 eq) were added to the mixture, and the latter was stirred for 15 min. Then 3M potassium carbonate solution (125 mL, 0.38 mol, 2 eq) was added, and the reaction mixture was refluxed for 3 h. The mixture was cooled, diluted with hexane (300 mL) and DCM (100 mL). The organic layer was separated, washed with water (2×100 mL), and with the saturated sodium chloride solution. The combined aqueous layer was extracted with ethyl acetate/hexane (3:1) mixture (2×200 mL). The organic layers were sequentially filtered through silica (25 g; 63-100 μm) and sodium sulphate (50 g) and evaporated. The residue was subjected to chromatography (carbon tetrachloride/chloroform/isopropanol 100:0:0→90:10:0→70:30:0→50:50:0→30:70:0→0:100:0→0:99:1→0:98:2→0:97:3→0:95:5→0:93:7→0:92:8→0:90:10) on silica (500 g; 63-100 μm). The fractions, containing the product, were collected and evaporated to give title compound as a light oil in (42.5 g, 0.14 mol, 74%).

reactant | nonane | CCCCCCCCC | C9H20
reactant | THF | 0.21 mol, 415 mL, 1.1 eq | C1CCOC1 | C4H8O
reactant | tert-butyl 6-[(cyclopropylmethoxy)methyl]-6-hydroxy-1,4-oxazepane-4-carboxylate | 0.19 mol, 40 g, 1 eq | C1(CC1)COCC1(CN(CCOC1)C(=O)OC(C)(C)C)O | C15H27NO5
reactant | 2-bromo-6-methylpyridine | 0.21 mol, 36 g, 1.1 eq | BrC1=NC(=CC=C1)C | C6H6BrN
reactant | potassium carbonate | 0.38 mol, 3M, 125 mL, 2 eq | C([O-])([O-])=O.[K+].[K+]
solvent | hexane | 300 mL | CCCCCC | C6H14
solvent | DCM | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | palladium (0) tetrakis(triphenylphosphine) | 0.003 mol, 4 g, 0.02 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Pd]
product | tert-Butyl 6-[(6-methylpyridin-2-yl)methyl]-1,4-oxazepane-4-carboxylate | CC1=CC=CC(=N1)CC1CN(CCOC1)C(=O)OC(C)(C)C | C17H26N2O3
